US07829572B2
A mixture of ethyl 5-aminothiazole-4-carboxylate (91.3 mg, 0.53 mmol), scandium (III) triflate (2.61 mg, 0.005 mmol) and 2,5-hexanedione (1.5 mL) was heated up to 180° C. for 1 h by microwave. The reaction was then concentrated and purified with silica gel chromatography to give a tan solid of ethyl 5-(2,5-dimethyl-1H-pyrrol-1-yl)thiazole-4-carboxylate (104 mg). 1H NMR (400 MHz, CDCl3) δ 8.82 (s, 1H), 5.92 (s, 2H), 4.25 (q, 2H), 2.01 (s, 6H), 1.20 (t, 3H). MS m/z 251.3 (M+H)+.

reactant | ethyl 5-aminothiazole-4-carboxylate | 0.53 mmol, 91.3 mg | NC1=C(N=CS1)C(=O)OCC | C6H8N2O2S
reactant | 2,5-hexanedione | 1.5 mL | CC(CCC(C)=O)=O | C6H10O2
catalyst | scandium (III) triflate | 0.005 mmol, 2.61 mg | [O-]S(=O)(=O)C(F)(F)F.[Sc+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
product | ethyl 5-(2,5-dimethyl-1H-pyrrol-1-yl)thiazole-4-carboxylate | 104 mg | CC=1N(C(=CC1)C)C1=C(N=CS1)C(=O)OCC | C12H14N2O2S
